US04959473
EXAMPLE 1. PREPARATION OF T-BUTYL 4-FLUOROACETOACETATE
A solution containing 12.6 g (125 mmol) of diisopropylamine in 90 ml of dry tetrahydrofuran was cooled to -78° C. and 52.4 ml of 2.5M n-butyllithium (131 mmol) was added. A solution of 14.5 g (125 mmol) of t-butyl acetate in 10 ml of tetrahydrofuran was then added dropwise over a 30 min period with stirring and allowed to react for another 30 min at -78° C. A solution of 6.00 g (56.6 mmol) of ethyl fluoroacetate in tetrahydrofuran was added dropwise with stirring to the resultant pale yellow solution and the mixture allowed to react for another 30 min at -78° C. and then allowed to stir and warm to ambient temperature over one hour. The resulting pale yellow solution was diluted with 250 ml of ether and the ethereal solution was extracted with 250 ml of 1N HCl, 250 ml of water, and 250 ml of saturated aqueous sodium bicarbonate. The solution was then dried over magnesium sulfate and distilled at atmospheric pressure to remove the solvents. The residue was fractionally distilled under reduced pressure from a based-washed and oven-dried flask containing a few potassium bicarbonate crystals to obtain 7.00 g (70 percent of theory) of the desired product as a colorless oil boiling at 72°-74° C. at 10 torr. The proton and fluorine nmr spectra were consistent with the assigned structure.

reactant | diisopropylamine | 125 mmol, 12.6 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 131 mmol, 2.5M, 52.4 ml | C(CCC)[Li]
reactant | t-butyl acetate | 125 mmol, 14.5 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | ethyl fluoroacetate | 56.6 mmol, 6.00 g | FCC(=O)OCC | C4H7FO2
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 250 ml | CCOCC | C4H10O
product | T-BUTYL 4-FLUOROACETOACETATE | FCC(CC(=O)OC(C)(C)C)=O | C8H13FO3
